US04057573
A solution of 10 g of 5-benzoyl-6-hydroxy-indane-1-carboxylic acid methyl ester in 100 ml of acetic anhydride is heated to the reflux temperature for 4 hours under anhydrous conditions. It is then evaporated to dryness in vacuo. The evaporation residue is mixed with 200 ml of toluene and evaporated in vacuo. Distillation of the evaporation residue in a high vacuum gives, in the fraction boiling at 195°-200° C/0.06 /mm Hg, 5-benzoyl-6-acetoxy-indane-1-carboxylic acid methyl ester in the form of a colourless oil.

reactant | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid methyl ester | 10 g | COC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O | C18H16O4
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-benzoyl-6-acetoxy-indane-1-carboxylic acid methyl ester | COC(=O)C1CCC2=CC(=C(C=C12)OC(C)=O)C(C1=CC=CC=C1)=O | C20H18O5
